US07001897B2
To a solution of 1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine (516 mg, 1.37 mmol) (obtained as described in Reference Example 49(5)) in dimethylformamide (15 ml) was added potassium thioacetate (939 mg, 8.22 mmol) at room temperature. The mixture was stirred in an oil bath (90° C.) for 3 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (20:1) as the eluant to afford 3-acetylthio-1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]azetidine (347 mg, yield 71%) as a pale brown solid.

reactant | 1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine | 1.37 mmol, 516 mg | C(N)(=O)CN(C(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)C(C)C | C13H20N4O5S2
reactant | potassium thioacetate | 8.22 mmol, 939 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]azetidine | 347 mg, yield 71% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N(C(C)C)CC(N)=O)=O | C14H20N4O3S2
